US04183931
N. 2-[2-Oxo-2-(2-pyridyl)ethyl]-3-p-bromophenyl-4(3H)-quinazolinone (IVn)
Treatment of 3.15 g (10 mmol) of 2-methyl-3-p-bromophenyl-4(3H)-quinazolinone and 1.81 g (12 mmol) of ethyl picolinate with 1.92 g (40 mmol) of sodium hydride (50%) in 160 ml of THF for a reaction period of 2.5 hours resulted in a yellow-brown reaction slurry which was processed using Method B. The crude yellow product was recrystallized from dimethyl sulfoxide-acetone to yield 4.06 g (96%) of yellow microcrystals, mp 312°-313° (dec): 1H NMR (CDCl3 with 3 drops CF3CO2H) δ 8.96-7.11 (m, 12H, aromatic) and 5.50 ppm (s, 1H, vinyl); ir (KBr) 1685 cm-1C=O).

reactant | 2-methyl-3-p-bromophenyl-4(3H)-quinazolinone | 10 mmol, 3.15 g | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)Br)=O | C15H11BrN2O
reactant | ethyl picolinate | 12 mmol, 1.81 g | N1=C(C=CC=C1)C(=O)OCC | C8H9NO2
reactant | sodium hydride | 40 mmol, 1.92 g | [H-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | 2-[2-Oxo-2-(2-pyridyl)ethyl]-3-p-bromophenyl-4(3H)-quinazolinone | O=C(CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)Br)=O)C1=NC=CC=C1 | C21H14BrN3O2
